US08304371B2
Step 7: Synthesis of {-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methanol
To a solution of {4-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methyl acetate (0.66 g) in methanol (5 ml) was added sodium methoxide (76 mg) at room temperature. The mixture was stirred for 3 hours and concentrated under reduced pressure, and then added water. The mixture was extracted with ethyl acetate, and the organic layer was dried over magnesium sulfate. After filtering the reaction mixture, the solvent was distilled off under reduced pressure, to obtain the desired compound as crude product (0.6 g).

reactant | {4-[3-(3,4,5-trichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methyl acetate | 0.66 g | C(C)(=O)OCC1=CC=C(C2=CC=CC=C12)C=1CC(CN1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C24H17Cl3F3NO2
reactant | sodium methoxide | 76 mg | C[O-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | {-4-[3-(3,5-dichlorophenyl)-3-(trifluoromethyl)-3,4-dihydro-2H-pyrrol-5-yl]naphthalen-1-yl}methanol | ClC=1C=C(C=C(C1)Cl)C1(CN=C(C1)C1=CC=C(C2=CC=CC=C12)CO)C(F)(F)F | C22H16Cl2F3NO
